US04208205
A solution of 3.7 parts of 2-(phenylthio)-benzoylchloride in 50 parts of tetrahydrofuran was added to a cold (~5°) stirred solution of 1 part N,O-dimethyl hydroxylamine and 1.6 parts triethylamine in 75 parts of tetrahydrofuran. The mixture was stirred for 8 hrs. and the temperature was allowed to rise to room temperature. Removal of the precipitated triethylamine hydrochloride by filtration and concentration of the filtrate under vacuum gave 3.3 parts of N-methoxy N-methyl 2-(phenylthio)-benzamide as a very viscous oil. NMR (CDCl3) 3.3δ(S,3H,N-CH3), 3.5δ(S,3H,-O-CH3), 7.3δ(m,9H,Aromatic H).

reactant | 2-(phenylthio)-benzoylchloride | C1(=CC=CC=C1)SC1=C(C(=O)Cl)C=CC=C1 | C13H9ClOS
reactant | N,O-dimethyl hydroxylamine | CNOC | C2H7NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-methoxy N-methyl 2-(phenylthio)-benzamide | CON(C(C1=C(C=CC=C1)SC1=CC=CC=C1)=O)C | C15H15NO2S
